US05864039
4-(tert-Butoxycarbonylaminomethyl)piperidine (10.0 g) as a starting compound, 4-ethylenedioxy-4-(4-methoxyphenyl)butyl chloride (12.0 g) and potassium carbonate (19.3 g) were reacted and treated in the same manner as in Preparation Example 181 to give 7.65 g of 1-(4-ethylenedioxy-4-(4-methoxyphenyl)butyl)-4-(tert-butoxycarbonylaminomethyl)piperidine.

reactant | 4-(tert-Butoxycarbonylaminomethyl)piperidine | 10.0 g | C(C)(C)(C)OC(=O)NCC1CCNCC1 | C11H22N2O2
reactant | 4-ethylenedioxy-4-(4-methoxyphenyl)butyl chloride | 12.0 g | C1OC(C(CCCl)OC1)C1=CC=C(C=C1)OC | C13H17ClO3
reactant | potassium carbonate | 19.3 g | C([O-])([O-])=O.[K+].[K+]
product | 1-(4-ethylenedioxy-4-(4-methoxyphenyl)butyl)-4-(tert-butoxycarbonylaminomethyl)piperidine | 7.65 g | C1OC(C(CCN2CCC(CC2)CNC(=O)OC(C)(C)C)OC1)C1=CC=C(C=C1)OC | C24H38N2O5
